US08124766B2
With a procedure similar to the example above, trans-4-(4-{4-[(7-methoxy-3-methyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-cyclohexanecarboxylic acid was prepared from 4-{4-[(7-methoxy-3-methyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester and trans-cyclohexane-1,4-dicarboxylic acid monomethyl ester, followed by a standard LiOH—H2O saponification procedure to remove the methyl ester. LCMS calcd for C30H35N3O5 (m/e) 517, obsd 518 (M+H).

reactant | 4-{4-[(7-methoxy-3-methyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1NC2=C(C=CC=C2C1C)OC | C27H33N3O4
reactant | trans-cyclohexane-1,4-dicarboxylic acid monomethyl ester | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O4
reactant | LiOH—H2O | O[Li].O
product | trans-4-(4-{4-[(7-methoxy-3-methyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-cyclohexanecarboxylic acid | COC=1C=CC=C2C(=C(NC12)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)O)C | C30H35N3O5
